US06423725B1
1-Acetyl-3-[1-(1-phenylcycloheptyl)-4-piperidinyl]-1,3-dihydro-2H-benzimidazol-2-one
A mixture of 1-[1-(1-phenylcycloheptyl)-4-piperidyl]-1,3-dihydro-2H-1,3-benzimidazol-2-one (60 mg, 0.154 mmol, this was prepared as Example 17), pyridine (1 ml), acetic anhydride (44 μl, 0.462 mmol), and dimethylaminopyridine (6 mg, 0.0462 mmol) was stirred at room temperature for 1 h. After evaporation of the solvent, the residue was purified by preparative TLC (acetone/hexane:1/2) to give 48.2 mg (72.5%) of colorless oil.

reactant | 1-[1-(1-phenylcycloheptyl)-4-piperidyl]-1,3-dihydro-2H-1,3-benzimidazol-2-one | C1(=CC=CC=C1)C1(CCCCCC1)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C25H31N3O
reactant | acetic anhydride | 0.462 mmol, 44 μl | C(C)(=O)OC(C)=O | C4H6O3
reactant | dimethylaminopyridine | 0.0462 mmol, 6 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 1-Acetyl-3-[1-(1-phenylcycloheptyl)-4-piperidinyl]-1,3-dihydro-2H-benzimidazol-2-one | 48.2 mg, 72.5% | C(C)(=O)N1C(N(C2=C1C=CC=C2)C2CCN(CC2)C2(CCCCCC2)C2=CC=CC=C2)=O | C27H33N3O2
